US06486349B1
Synthesis of N-tert-Butyl 3-Trifluoromethylbenzamide
To tert-butylamine (2.0 eq) in 75 mL of benzene is added 3-trifluoromethylbenzoyl chloride (1.0 eq). The temperature is maintained below 15° C. during the addition and then the reaction mixture is allowed to warm to ambient temperature and stirred for 3 hours. The solvent is then stripped and the residue is dissolved in 75 mL of dichloromethane. This solution is washed with 5% hydrochloride acid (2×75 mL), water (2×75 mL), dried over MgSO4 and then the solvent is removed in vacuo to provide the title compound.

reactant | tert-butylamine | 2.0 eq | C(C)(C)(C)N | C4H11N
reactant | 3-trifluoromethylbenzoyl chloride | 1.0 eq | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-tert-Butyl 3-Trifluoromethylbenzamide | C(C)(C)(C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C12H14F3NO
